US07572820B2
4-Chloro-1-{[5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazol-3-yl]methyl}-2-ethyl-1H-benzimidazole-5-carbonitrile
Synthesized as described in Example 197B from 4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile and 3-(chloromethyl)-5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazole: MS (ESI) m/z 383 (M+1).

reactant | 4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2NC(=NC21)CC)C#N | C10H8ClN3
reactant | 3-(chloromethyl)-5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C=1C(=NOC1C)C | C8H8ClN3O2
product | 4-Chloro-1-{[5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazol-3-yl]methyl}-2-ethyl-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2N(C(=NC21)CC)CC2=NOC(=N2)C=2C(=NOC2C)C)C#N | C18H15ClN6O2
